US06630128B1
3,5-Didecyloxy-benzaldehyde
The title compound was prepared according to the method described in Example 9 above from 1-bromodecane and 3,5-dihydroxy-benzaldehyde.

reactant | 1-bromodecane | BrCCCCCCCCCC | C10H21Br
reactant | 3,5-dihydroxy-benzaldehyde | OC=1C=C(C=O)C=C(C1)O | C7H6O3
product | 3,5-Didecyloxy-benzaldehyde | C(CCCCCCCCC)OC=1C=C(C=O)C=C(C1)OCCCCCCCCCC | C27H46O3
